US05705188
Synthesis of 1,3-O-dioleoylglycerol
To 1,3-O-dioleoyl-2-O-(t-butyldimethylsilyl)glycerol was added 266 ml of 0.1M tetra-n-butylammonium fluoride-tetrahydrofuran and the reaction was carried out at ambient temperature for 30 minutes. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was diluted with methylene chloride, washed with water, dried, and concentrated. The residue was subjected to column chromatography (silica gel/ethyl acetate-n-hexane) to provide 3.97 g (48.0% based on 2-O-t-butyldimethylsilylglycerol) of the title compound.

reactant | 1,3-O-dioleoyl-2-O-(t-butyldimethylsilyl)glycerol | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O[Si](C)(C)C(C)(C)C)COC(CCCCCCC\C=C/CCCCCCCC)=O | C45H86O5Si
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 0.1M, 266 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
product | 1,3-O-dioleoylglycerol | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)COC(CCCCCCC\C=C/CCCCCCCC)=O | C39H72O5
